Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Percocet / Hydrocortisone / Penicillins
 
Attending: ___
 
Chief Complaint:
Left knee pain
 
Major Surgical or Invasive Procedure:
Left knee washout ___
 
History of Present Illness:
___ with h/o psoriatic arthritis, uncontrolled DM HLD, breast 
cancer presents with left knee pain. Pt reports onset of L knee 
pain 2 days prior to presentation. She noted L knee pain with 
movement of her L knee and noted swelling. No redness or warmth 
of the joint. She notes that she developed attack of her 
bilateral ___ neuropathy 5 days ago which is neuropathic pain in 
her feet extending into her legs. She had this pain for 24hrs 
associated with difficulty walking. During this attack she noted 
chills but did not take her temperature. The episode passed but 
she used a walker. She also notes chronic R plantar ulcer since 
___ for which she follows with a podiatrist and has had 
debridements in the past. No tick exposures.  
 
In the ED, initial vs were: 97.6 93 134/58 18 95%. Labs were 
remarkable for WBC count of 13.3 (81%N), Na 131, bicarb 18, 
BUN/Cr 35/1.1, lactate 0.9, INR 1.3, ESR 132, CRP > 300. Ortho 
consulted and did a L knee arthrocentesis with synovial fluid 
revealing 46K WBC with 90% polys. Bl cx sent and synovial fluid 
cx and gram stain pending. Pt admitted for septic arthritis with 
plan for OR in AM for washout with ortho. No IV ABX per ortho 
until after washout. Vitals on Transfer: 97.5 82 144/78 18 98%. 
 
On the floor, pt reports ___ pain in L knee. 
 
Past Medical History:
- psoriasis  
- psoriatic arthritis  
- CAD s/p stent x1  
- H/o TIA  
- T2DM c/b neuropathy, previously on glyburide, no currently 
taking any medications  
- H/o breast cancer s/p lumpectomy and chemoradiation ___ ago 
c/b RUE lymphedema  
- H/o osteomyelitis ___ ago near L ankle 
 
Social History:
___
Family History:
Significant for heart disease, hypertension,  
and diabetes. 
 
Physical Exam:
On admission:
Vitals: 98.5, 118/59, 76, 18, 100% RA  
FSG: 289  
General: talkative elderly woman, lying in bed, nontoxic, in NAD 
 
HEENT: Sclera anicteric, MMM  
Neck: supple  
CV: RRR, soft systolic murmur at USBs  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi; breathing comfortably  
Abdomen: soft, non-tender, non-distended, bowel sounds present  
Ext: Warm, well perfused, no pitting ___ edema, 2+ distal pulses, 
3cm raised erosion on plantar surface of R foot at ball of the 
foot; L knee mildly warm, swollen and pain with active and 
passive ROM  
Skin: psoriatic plaques over back  
Neuro: grossly intact  

On discharge:
V: 97.8, 98.2, 92, 184/83, 18, 99% RA
Gen: NAD, A and OX3
LLE: ___ in place
Fires: ___
SILT: ___
Foot WWP

RLE: Dressing over surgical site on plantar foot
Stitches on tact
Fires ___
SILT: ___
Foot WWP.
 
Pertinent Results:
___ 11:33PM   SED RATE-132*
___ 11:33PM   PLT COUNT-281
___ 11:33PM   NEUTS-81.5* LYMPHS-11.0* MONOS-6.7 EOS-0.2 
BASOS-0.7
___ 11:33PM   WBC-13.3* RBC-3.27* HGB-10.0* HCT-29.9* 
MCV-91 MCH-30.4 MCHC-33.2 RDW-14.8
___ 11:33PM   CRP-GREATER THAN 300
___ 11:33PM   GLUCOSE-356* UREA N-35* CREAT-1.1 SODIUM-131* 
POTASSIUM-4.5 CHLORIDE-101 TOTAL CO2-18* ANION GAP-17
___ 11:50PM JOINT FLUID  ___ POLYS-90* 
___ MACROPHAG-7
___ 11:57PM   ___ PTT-27.1 ___
___ 01:10AM   LACTATE-0.9

___ 11:50 pm JOINT FLUID      Source: KneeLeft. 

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary): 
      Reported to and read back by ___ ___ ___ 1040AM. 
      STAPH AUREUS COAG +.    RARE GROWTH. 

___ 1:00 am BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      STAPH AUREUS COAG +. 
         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus, yeast or other 
fungi. 
         FINAL SENSITIVITIES. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
      Reported to and read back by ___ (___) 12:39AM 
___. 

L Knee XR:
IMPRESSION: Large joint effusion. No acute fracture detected. If 
there is high 
clinical concern for a radiographically-occult fracture, then 
MRI could help 
for further assessment. 

R Foot XR:
IMPRESSION: 
  
Periosteal reaction along the third metatarsal which can be seen 
with 
osteomyelitis, correlation with the site of the patient's known 
ulcer is 
recommended.  MRI is more sensitive for the detection of 
osteomyelitis. 

 
Brief Hospital Course:
___ with h/o psoriatic arthritis, HLD, uncontrolled DM and 
breast cancer presents with  left knee pain x2 days concerning 
for septic arthritis.

Active Issues:

# L knee septic arthritis: The patient presented to the 
emergency department and was evaluated by the orthopedic surgery 
team. Arthrocentesis showed 43K WBCs with neutrophil 
predominance, systemic leukocytosis of 13 and ESR 132, Sed 
rate>300 without frank fevers.  Aspirate wbc ct less than 100K 
cut off for dx of septic arthritis. Initial gram stain showed no 
organism. No crystals seen in joint fluid to suggest 
inflammatory arthritis from gout or pseudogout. Pt started on 
vanc on ___. However cx came back on ___ growing staph.

The patient was found to have L knee septic arthritis and was 
taken to the OR on ___ for L knee I&D and synovectomy, and 
subsequently was transferred to the orthopedic surgery service.  
The patient tolerated the surgery well (for full details please 
see the separately dictated operative report). The patient was 
taken from the OR to the PACU in stable condition and after 
recovery from anesthesia was transferred to the floor.  The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications by POD#1. 
The patient was given perioperative antibiotics and 
anticoagulation per routine.  The patients home medications were 
continued throughout this hospitalization.  The patient worked 
with ___ who determined that discharge to rehab was appropriate. 
The ___ hospital course was otherwise unremarkable.

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient is partial weightbearing in the left 
lower extremity, and will be discharged on Lovenox for DVT 
prophylaxis.  The patient will follow up in two weeks per 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course, and 
all questions were answered prior to discharge

#Bacteremia: Pt with pan-sensitive staph bacteremia from blood 
cx on ___. Pt with leukocytosis of 13 on admission but 
downtrended with abx use. ID consulted and plan was IV ancef 
with follow-up. TTE to r/o endocarditis showed no vegatations. 
Repeat blood cx were negative. Patient was discharged with a 
PICC line for IV Ancef.

#Chronic right foot ulcer: In setting of untreated DM. XR on ___ 
concerning for osteo and ESR 132. Ulcer draining purulent fluid 
___ concerning for MRSA. Podiatry consulted and the patient was 
taken to the OR on ___ for I&D and resection of R ___ metatarsal 
head for osteomyelitis, which the patient tolerated well. The 
patient will be nonweightbearing in the right lower extremity 
per Podiatry.

Chronic Issues
# Psoriasis, h/o PSA: currently psoriatic plaques on back and  
forearms. Pt encouraged to f/u with Rheum

# Anemia: Hct 30 on admission from unknown baseline. No reports 
of bleeding. CBC in ___ with Hct 33.3. No evidence of acute 
bleeding. Pt should f/u as OP for workup
 
# T2DM: not currently on treatment but previously on glyburide, 
c/b neuropathy. Most likely contributing to her chronic foot 
ulcer. Pt on SSI while in house. Pt will need follow up with 
PCP.
  
# CAD s/p stenting: switched ASA 325 to ASA 81  
 
# H/o TIA:  continue ASA per above

#Social issues: Pt has lived alone after husband died 25+ years 
ago. States it is getting difficult to complete her ADLs and 
difficulty getting around. Social work followed this patient and 
___ recommended rehab.

Transitional Issues:
-Pt has "fired" multiple PCPs in the past. She needs follow up 
for her chronic medical conditions including her DM and CAD. She 
should have outpatient workup for anemia.
-Pt should see a rheumatologist (previously has seen Dr. ___ 
at ___ for her psoriatic arthritis.
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin Dose is Unknown  PO TID:PRN neuropathy 
2. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Gabapentin 200 mg PO Q12H pain 
3. Acetaminophen 650 mg PO Q6H pain 
4. Docusate Sodium 100 mg PO BID 
5. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN Pain 
6. Enoxaparin Sodium 40 mg SC DAILY Duration: 2 Weeks 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left knee septic arthritis
Right ___ metatarsal chronic ulcer and osteomyelitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital with left knee pain. You were 
found to have a septic joint and taken to the operating room to 
clean out the infection. You were given antibiotics to help with 
the infection. You were also found to have bacteria in your 
blood which the antibiotics helped to treat. Your right foot 
ulcer was also found to be infected and it was seen and debrided 
by podiatry.

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox 40mg daily for 2 weeks

WOUND CARE:
- You can get the wound wet/take a shower starting 3 days after 
your surgery.  You may wash gently with soap and water, and pat 
the incision dry after showering.  
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.

ACTIVITY AND WEIGHT BEARING:
- Partial weightbearing in left lower extremity
Physical Therapy:
Partial weightbearing in left lower extremity
Non weightbearing in right lower extremity
Treatments Frequency:
Dressing changes daily until wound is dry, then leave open to 
air
 
Followup Instructions:
___